US04644005
A5. 1-ethyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole
Starting with the appropriate 1-substituted-5-hydroxyoxindole and following the procedure of Preparation A, 1-methyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole, 1-phenyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole, 1-n-propyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole and 1-i-propyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole are prepared.

reactant | 1-methyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole | CN1C(CC2=CC3=C(C=C12)C(CC3)=O)=O | C12H11NO2
reactant | 1-phenyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole | C1(=CC=CC=C1)N1C(CC2=CC3=C(C=C12)C(CC3)=O)=O | C17H13NO2
reactant | 1-n-propyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole | C(CC)N1C(CC2=CC3=C(C=C12)C(CC3)=O)=O | C14H15NO2
reactant | 1-i-propyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole | C(C)(C)N1C(CC2=CC3=C(C=C12)C(CC3)=O)=O | C14H15NO2
product | 1-ethyl-2,7-dioxo-2,3,5,6-tetrahydro-7H-cyclopenta[f]indole | C(C)N1C(CC2=CC3=C(C=C12)C(CC3)=O)=O | C13H13NO2
